US06627651B1
Into a solution of methyl 7-[(4-chlorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (200 mg) in THF/methanol (3/1.5 ml) was added at room temperature an aqueous solution (0.7 ml) of potassium carbonate (140 mg), and the resulting mixture was stirred at 65-70° C. for 23 hours. After cooling to room temperature, 1 N hydrochloric acid was added to the reaction mixture until the pH was adjusted to 5, and the precipitated crystals were collected by filtration. The crystals were washed with water, 2-propanol and diisopropyl ether to obtain 7-[(4-chlorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (149 mg) as light yellow crystals.

reactant | methyl 7-[(4-chlorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 200 mg | ClC1=CC=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=C1 | C19H17ClO5S
reactant | potassium carbonate | 0.7 ml, 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF methanol | 1.5 ml | C1CCOC1.CO
product | 7-[(4-chlorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 149 mg | ClC1=CC=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)O)C2)C=C1 | C18H15ClO5S
